US07238826B2
Synthesis of Tert-butyl 6-triphenylmethyloxy-3(R),5(S)-dihydroxyhexanoate
To the crude tert-butyl 6-triphenylmethyloxy-5(S)-hydroxy-3-oxohexanoate was added 150 mL of THF followed by 15 mL of MeOH and was chilled to −60° C. 26 mL of methoxydiethylborane (50% solution in THF) was added over a period of 20 minutes and stirring was continued for a further 30 minutes. The reaction mixture was cooled to −80° C. and 5 g of sodium borohydride was added in portions and the after completion of addition the reaction mixture was stirred for 5 hours at −78° C. Acetic acid was added to adjust the pH to 7 and water was added. The aqueous layer was extracted using EtOAC, washed with brine, dried and concentrated to give the title compound which was used as such for the next step.

reactant | tert-butyl 6-triphenylmethyloxy-5(S)-hydroxy-3-oxohexanoate | C1(=CC=CC=C1)C(OC[C@H](CC(CC(=O)OC(C)(C)C)=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H32O5
reactant | THF | 150 mL | C1CCOC1 | C4H8O
reactant | methoxydiethylborane | 26 mL | COB(CC)CC | C5H13BO
reactant | sodium borohydride | 5 g | [BH4-].[Na+]
solvent | water | O | H2O
solvent | Acetic acid | C(C)(=O)O | C2H4O2
solvent | MeOH | 15 mL | CO | CH4O
product | Tert-butyl 6-triphenylmethyloxy-3(R),5(S)-dihydroxyhexanoate | C1(=CC=CC=C1)C(OC[C@H](C[C@H](CC(=O)OC(C)(C)C)O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34O5
